US06610707B1
tert-Butyl (2S)-2-{-[(R)-{[(Benzyloxy)carbonyl]amino}(phenyl)methyl]-1,2,4-oxadiazol-3-yl}-1-piperidinecarboxylate
The title compound was prepared by a similar method to Preparation 6 from tert-butyl (2S)-2-[(Z,5R)-1-amino-4,7-dioxo-5,9-diphenyl-3,8-dioxa-2,6-diaza-1-nonen-1-yl]-1-piperidinecarboxylate [see Preparation 10 1] and pyridine to afford tert-butyl (2S)-2-{5-[(R)-{[(benzyloxy)carbonyl]amino}(phenyl)methyl]-1,2,4-oxadiazol-3-yl}-1-piperidinecarboxylate as an oil.

reactant | tert-butyl (2S)-2-[(Z,5R)-1-amino-4,7-dioxo-5,9-diphenyl-3,8-dioxa-2,6-diaza-1-nonen-1-yl]-1-piperidinecarboxylate | N\C(=N/OC([C@H](NC(OCC1=CC=CC=C1)=O)C1=CC=CC=C1)=O)\[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C27H34N4O6
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | tert-butyl (2S)-2-{5-[(R)-{[(benzyloxy)carbonyl]amino}(phenyl)methyl]-1,2,4-oxadiazol-3-yl}-1-piperidinecarboxylate | C(C1=CC=CC=C1)OC(=O)N[C@@H](C1=NC(=NO1)[C@H]1N(CCCC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C27H32N4O5
